US07273877B2
Step A: 5-Nitro-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester
5-Nitroindole (2.0 g, 12.3 mmol) was dissolved in dioxane (25 mL) and 10% wt./vol Na2CO3 solution (2.5 g, water 25 mL) was added. FMOC-chloroformate (3.19 g, 12.3 mmol) was added to the mixture and the reaction was stirred overnight. The reaction mixture was transferred into water, filtered as a yellow solid and dried in vacuum oven at 50° C. for 2 hours. Obtained (4.07 g, 86% y). NMR (400 MHz, CDCl3), δ 8.61 (d, J=2.2 Hz, 1H), 8.43 (d, J=2.2 Hz, 1H), 8.12 (dd, J=7.3, 5.1 Hz, 1H), 8.02 (d, J=8.3 Hz, 1H), 7.82 (d, J=7.6 Hz, 2H), 7.76 (d, J=7.6 Hz, 2H), 7.62 (m, 4H), 7.60-7.30 (m, 8H), 6.74-6.69 (m, 2H), 4.94 (d, J=5.4 Hz, 2H), 4.41 (t, J=5.1 Hz, 1H), 4.05 (d, J=5.6 Hz, 2H). MS 384 [M−H] APCI.

reactant | 5-Nitroindole | 12.3 mmol, 2.0 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | Na2CO3 | 25 mL, 2.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | FMOC-chloroformate | 12.3 mmol, 3.19 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)OC(=O)Cl | C16H11ClO4
reactant | water | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-Nitro-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C23H16N2O4
